US04602016
A mixture of 1-[2-(4-ethoxycarbonyl-2-chlorophenoxy)ethyl]imidazole (115 mg) and potassium hydroxide (50 mg) in water (6.25 ml) was heated on a steam bath for 18 hours. The resulting solution was just acidified with acetic acid and evaporated to a small volume. The resulting solid was filtered off, washed with water and crystallised from water to give 1-[2-(4-carboxy-2-chlorophenoxy)ethyl]imidazole (65 mg), m.p. 204° C. Found: C, 53.44; H, 4.15; N, 10.52. C12H11ClN2O3 requires: C, 54.04; H, 4.16; N, 10.51%.

reactant | 1-[2-(4-ethoxycarbonyl-2-chlorophenoxy)ethyl]imidazole | 115 mg | C(C)OC(=O)C1=CC(=C(OCCN2C=NC=C2)C=C1)Cl | C14H15ClN2O3
reactant | potassium hydroxide | 50 mg | [OH-].[K+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | 6.25 ml | O | H2O
product | 1-[2-(4-carboxy-2-chlorophenoxy)ethyl]imidazole | 65 mg | C(=O)(O)C1=CC(=C(OCCN2C=NC=C2)C=C1)Cl | C12H11ClN2O3
